US09315530B2
Step 3: diethyl 4-((6-amino-8-bromo-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate
To a solution of diethyl 4-((6-amino-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate (1 equiv.) in acetic acid (0.20 M) was added sodium acetate (15 equiv.) and bromine (13 equiv.). The reaction mixture was then allowed to stir at room temperature for 18 h. At this point the reaction was quenched by the addition of sodium thiosulfate. The mixture was then diluted with water and DCM. This mixture was transferred to a separatory funnel and washed with DCM three times. The combined organic layers were then dried over anhydrous Na2SO4 and the volatiles were removed in vacuo. The resulting residue was purified by a COMBIFLASH™ system using a gradient of 0-5% MeOH/DCM to provide the title compound (14%) as a solid.

reactant | diethyl 4-((6-amino-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate | 1 equiv. | NC1=C2N=CN(C2=NC(=N1)OCCOC)CC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C20H28N5O5P
reactant | sodium acetate | 15 equiv. | C(C)(=O)[O-].[Na+]
reactant | bromine | 13 equiv. | BrBr | Br2
solvent | acetic acid | 0.20 M | C(C)(=O)O | C2H4O2
product | diethyl 4-((6-amino-8-bromo-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate | 14% | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(CP(OCC)(OCC)=O)C=C1)Br | C20H27BrN5O5P
